US07816523B2
Synthesis of 3-[4-(4-acetyl-3-hydroxy-2-propyl-phenoxymethyl)-benzoyl]-benzonitrile
Stir a solution of 3-{[4-(4-acetyl-3-hydroxy-2-propyl-phenoxymethyl)-phenyl]-hydroxy-methyl}-benzonitrile (110 mg, 0.264 mmol) in dichloromethane (5 mL) at 0° C. Add Dess-Martin periodinane (1,1,1-triacetoxy-1,1-dihydro-1,2-benziodoxol-3 (H)-one) (120 mg, 0.29 mmol) and stir the reaction for 1.5 hr at room temperature. Dilute the reaction mixture with aqueous saturated sodium bicarbonate (50 mL) and extract with ethyl acetate (3×50 mL). Dry the combined extracts over sodium sulfate, filter and concentrate. Purify the residue via silica gel chromatography, eluting with 7:3 hexanes:ethyl acetate to afford the title compound as a white solid (105 mg, 95%). Mass spectrum (M+H) 414.

reactant | 3-{[4-(4-acetyl-3-hydroxy-2-propyl-phenoxymethyl)-phenyl]-hydroxy-methyl}-benzonitrile | 0.264 mmol, 110 mg | C(C)(=O)C1=C(C(=C(OCC2=CC=C(C=C2)C(C=2C=C(C#N)C=CC2)O)C=C1)CCC)O | C26H25NO4
reactant | Dess-Martin periodinane | 0.29 mmol, 120 mg | CC(=O)OI1(C=2C=CC=CC2C(=O)O1)(OC(=O)C)OC(=O)C | C13H13IO8
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
solvent | sodium bicarbonate | 50 mL | C([O-])(O)=O.[Na+]
product | 3-[4-(4-acetyl-3-hydroxy-2-propyl-phenoxymethyl)-benzoyl]-benzonitrile | 105 mg, 95% | C(C)(=O)C1=C(C(=C(OCC2=CC=C(C(=O)C=3C=C(C#N)C=CC3)C=C2)C=C1)CCC)O | C26H23NO4
